US04666504
4-Carboxy-1-(3-methylphenyl)-5-pyrazolecarboxamide.
A 9 g. portion of ethyl 5-cyano-1-(3-methylphenyl)-4-pyrazolecarboxylate was dissolved in 200 ml. of ethanol, and 5.8 g. of potassium hydroxide was added. The mixture was stirred under reflux for 4 hours, and then was cooled, diluted with water and made acid. The mixture was filtered, and the solids were washed with ethyl acetate as shown above in Example 8 to obtain 3.8 g. of the desired product, m.p. 209°-211° dec. It was identified by elemental analysis.

reactant | ethyl 5-cyano-1-(3-methylphenyl)-4-pyrazolecarboxylate | C(#N)C1=C(C=NN1C1=CC(=CC=C1)C)C(=O)OCC | C14H13N3O2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 4-Carboxy-1-(3-methylphenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=CC=C1)C | C12H11N3O3
